US05468877
Preparation of 3-Chloro-3-(p-chlorophenyl)-1-methyl-4[(trifluoromethyl)sulfonyl]pyrrole
A solution of 3-(p-chlorophenyl)-1-methyl-[(trifluoromethyl)sulfonyl]pyrrole (0.5 g, 0.0015 mol) in dimethoxyethane is treated with chlorosulfonyl isocyanate (0.3 mL, 0.0034 mol), stirred for 24 hours at room temperature, treated with additional chlorosulfonyl isocyanate (0.6 mL, 0.0068 mol), stirred for 24 hours, treated with dimethylformamide (2 mL), stirred for one hour, diluted with water and extracted with ether. The combined organic extracts are washed with water, dried and concentrated in vacuo to obtain a semi-solid. Flash chromatography of the semi-solid using silica gel and a 1:4 ethyl acetate/hexanes solution gives the title product as a white solid (0.2 g, mp 117°-119° C.) which is identified by 1HNMR and 13CNMR spectral analyses.

reactant | 3-(p-chlorophenyl)-1-methyl-[(trifluoromethyl)sulfonyl]pyrrole | 0.0015 mol, 0.5 g | ClC1=CC=C(C=C1)C1=C(N(C=C1)C)S(=O)(=O)C(F)(F)F | C12H9ClF3NO2S
reactant | chlorosulfonyl isocyanate | 0.0034 mol, 0.3 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | chlorosulfonyl isocyanate | 0.0068 mol, 0.6 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | water | O | H2O
product | 3-Chloro-3-(p-chlorophenyl)-1-methyl-4[(trifluoromethyl)sulfonyl]pyrrole | 0.2 g | ClC1(CN(C=C1S(=O)(=O)C(F)(F)F)C)C1=CC=C(C=C1)Cl | C12H10Cl2F3NO2S
